US07078414B2
c) 3-Carboxy-4,5-dimethyl-1-(quinol-4-yl)-1H-pyrrole
1.89 g (45 mmol) of lithium hydroxide monohydrate are added at a temperature in the region of 20° C. to 1.3 g (4.42 mmol) of 3-ethoxycarbonyl-4,5-dimethyl-1-(quinol-4-yl)-1H-pyrrole dissolved in 50 mL of tetrahydrofuran and 50 mL of water. After stirring at reflux for 42 hours, the reaction mixture is concentrated virtually to dryness under reduced pressure (2.7 kPa) to give a residue that is taken up in 41 mL of 1N hydrochloric acid. After filtering off and drying the solid residue at ambient pressure at a temperature in the region of 50° C., 1.1 g of 3-carboxy-4,5-dimethyl-1-(quinol-4-yl)-1H-pyrrole are obtained in the form of a whitish solid melting at approximately 238° C.

reactant | lithium hydroxide monohydrate | 45 mmol, 1.89 g | O.[OH-].[Li+]
reactant | 3-ethoxycarbonyl-4,5-dimethyl-1-(quinol-4-yl)-1H-pyrrole | 4.42 mmol | C(C)OC(=O)C1=CN(C(=C1C)C)C1=CC=NC2=CC=CC=C12 | C18H18N2O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | hydrochloric acid | 1N, 41 mL | Cl | ClH
product | 3-Carboxy-4,5-dimethyl-1-(quinol-4-yl)-1H-pyrrole | C(=O)(O)C1=CN(C(=C1C)C)C1=CC=NC2=CC=CC=C12 | C16H14N2O2
